US05968908
Ethyl 2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)-1-cyclohexene-1-carboxylate described in Example 1 is stirred with excess lithium aluminum hydride in diethyl ether at reflux temperature for 3 hours. The mixture is cooled and water is added dropwise. The ether layer is dried over sodium sulfate and evaporated to give 2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)-1-cyclohexenylmethanol.

reactant | Ethyl 2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)-1-cyclohexene-1-carboxylate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=C(CCCC1)C(=O)OCC)C | C23H32O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenyl)-1-cyclohexenylmethanol | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=C(CCCC1)CO)C | C21H30O
